data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "5 mol% RuCl2(PCy3)2(=CHCH=CPh2)"}], "steps": [{"reactants": "O=C(CC=C)N(*)[C@H](C=C)CC1=CC=CC=C1.[Ru]=CC=C(C1=CC=CC=C1)C2=CC=CC=C2", "products": "O=C(CC1C(C=C(C2=CC=CC=C2)C3=CC=CC=C3)[Ru]C1)N(*)[C@H](C=C)CC4=CC=CC=C4"}, {"reactants": "O=C(CC1C(C=C(C2=CC=CC=C2)C3=CC=CC=C3)[Ru]C1)N(*)[C@H](C=C)CC4=CC=CC=C4", "products": "O=C(CC=[Ru])N(*)[C@H](C=C)CC1=CC=CC=C1.C=CC=C(C1=CC=CC=C1)C2=CC=CC=C2"}, {"reactants": "O=C(CC=[Ru])N(*)[C@H](C=C)CC1=CC=CC=C1", "products": "O=C1CC2C([C@@H](N1[*])CC3=CC=CC=C3)C[Ru]2"}, {"reactants": "O=C1CC2C([C@@H](N1[*])CC3=CC=CC=C3)C[Ru]2", "products": "O=C1CC=C[C@H](CC2=CC=CC=C2)N1*.C=[Ru]"}]}
{"conditions": [{"role": "reagent", "text": "[Rh] catalyst"}], "steps": [{"reactants": "C=CCC(O[SiH](c1ccccc1)c1ccc(Cl)c(OC)c1)C(C)C.[Rh]", "products": "C=CCC(O[Si]([RhH])(c1ccccc1)c1ccc(Cl)c(OC)c1)C(C)C"}, {"reactants": "C=CCC(O[Si]([RhH])(c1ccccc1)c1ccc(Cl)c(OC)c1)C(C)C", "products": "COc1cc([Si]2(c3ccccc3)OC(C(C)C)C[CH]3[CH2][RhH]32)ccc1Cl"}, {"reactants": "COc1cc([Si]2(c3ccccc3)OC(C(C)C)C[CH]3[CH2][RhH]32)ccc1Cl", "products": "COc1cc([Si]2(c3ccccc3)OC(C(C)C)CC2[CH2][RhH])ccc1Cl"}, {"reactants": "COc1cc([Si]2(c3ccccc3)OC(C(C)C)CC2[CH2][RhH])ccc1Cl.[C-]#[O+]", "products": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C"}, {"reactants": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C", "products": "COc1cc([Si]2(c3ccccc3)OC(C(C)C)CC2C[C](=O)[RhH])ccc1Cl"}, {"reactants": "COc1cc([Si]2(c3ccccc3)OC(C(C)C)CC2C[C](=O)[RhH])ccc1Cl", "products": "COc1cc([Si]2(c3ccccc3)OC(C(C)C)CC2CC=O)ccc1Cl.[Rh]"}]}
{"conditions": [{"role": "reagent", "text": "[Rh] catalyst"}], "steps": [{"reactants": "C=CCC(O[SiH](c1ccccc1)c1ccc(F)c(C)c1)C(C)C.[Rh]", "products": "C=CCC(O[Si]([RhH])(c1ccccc1)c1ccc(F)c(C)c1)C(C)C"}, {"reactants": "C=CCC(O[Si]([RhH])(c1ccccc1)c1ccc(F)c(C)c1)C(C)C", "products": "Cc1cc([Si]2(c3ccccc3)OC(C(C)C)C[CH]3[CH2][RhH]32)ccc1F"}, {"reactants": "Cc1cc([Si]2(c3ccccc3)OC(C(C)C)C[CH]3[CH2][RhH]32)ccc1F", "products": "Cc1cc([Si]2(c3ccccc3)OC(C(C)C)CC2[CH2][RhH])ccc1F"}, {"reactants": "Cc1cc([Si]2(c3ccccc3)OC(C(C)C)CC2[CH2][RhH])ccc1F.[C-]#[O+]", "products": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C"}, {"reactants": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C", "products": "Cc1cc([Si]2(c3ccccc3)OC(C(C)C)CC2C[C](=O)[RhH])ccc1F"}, {"reactants": "Cc1cc([Si]2(c3ccccc3)OC(C(C)C)CC2C[C](=O)[RhH])ccc1F", "products": "Cc1cc([Si]2(c3ccccc3)OC(C(C)C)CC2CC=O)ccc1F.[Rh]"}]}
{"conditions": [{"role": "reagent", "text": "hv"}], "steps": [{"reactants": "Cc1ccc(C(=O)C2C3CCC2C3)c(F)c1", "products": "Cc1ccc([C]([O])C2C3CCC2C3)c(F)c1"}, {"reactants": "Cc1ccc([C]([O])C2C3CCC2C3)c(F)c1", "products": "Cc1ccc(C([O])=CC2C[CH]CC2)c(F)c1"}, {"reactants": "Cc1ccc(C([O])=CC2C[CH]CC2)c(F)c1", "products": "Cc1ccc(C(O)=CC2C=CCC2)c(F)c1"}, {"reactants": "Cc1ccc(C(O)=CC2C=CCC2)c(F)c1", "products": "Cc1ccc(C(=O)CC2C=CCC2)c(F)c1"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2c1cc([Si](C)(C)C)c([Si](C)(C)CCl)c2F", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\c(F)c([Si](C)(C)CCl)c([Si](C)(C)C)cc1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\c(F)c([Si](C)(C)CCl)c([Si](C)(C)C)cc1=C", "products": "C[C@]12CC[C@@H]3c4c(cc([Si](C)(C)C)c([Si](C)(C)CCl)c4F)CC[C@H]3[C@@H]1CCC2=O"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2cc([Si](C)(C)CCl)c([Si](C)(C)CC)cc21", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)CCl)c([Si](C)(C)CC)cc1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(C)CCl)c([Si](C)(C)CC)cc1=C", "products": "CC[Si](C)(C)c1cc2c(cc1[Si](C)(C)CCl)[C@H]1CC[C@]3(C)C(=O)CC[C@H]3[C@@H]1CC2"}]}
{"conditions": [{"role": "reagent", "text": "hv"}], "steps": [{"reactants": "CCOc1ccccc1C(=O)C1C2CCC1C2", "products": "CCOc1ccccc1[C]([O])C1C2CCC1C2"}, {"reactants": "CCOc1ccccc1[C]([O])C1C2CCC1C2", "products": "CCOc1ccccc1C([O])=CC1C[CH]CC1"}, {"reactants": "CCOc1ccccc1C([O])=CC1C[CH]CC1", "products": "CCOc1ccccc1C(O)=CC1C=CCC1"}, {"reactants": "CCOc1ccccc1C(O)=CC1C=CCC1", "products": "CCOc1ccccc1C(=O)CC1C=CCC1"}]}
{"conditions": [{"role": "reagent", "text": "hv"}], "steps": [{"reactants": "Cc1cc(Cl)ccc1C(=O)C1C2CCC1C2", "products": "Cc1cc(Cl)ccc1[C]([O])C1C2CCC1C2"}, {"reactants": "Cc1cc(Cl)ccc1[C]([O])C1C2CCC1C2", "products": "Cc1cc(Cl)ccc1C([O])=CC1C[CH]CC1"}, {"reactants": "Cc1cc(Cl)ccc1C([O])=CC1C[CH]CC1", "products": "Cc1cc(Cl)ccc1C(O)=CC1C=CCC1"}, {"reactants": "Cc1cc(Cl)ccc1C(O)=CC1C=CCC1", "products": "Cc1cc(Cl)ccc1C(=O)CC1C=CCC1"}]}
